US09382243B2
1-(methylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-3-ol
A 10 mL reaction vial was charged with: 4-(4-chlorophenyl)-1-(methylsulfonyl)-piperidin-3-ol (150 mg, 0.518 mmol), Pd2(dba)3 (23.70 mg, 0.026 mmol), bis(pina-colato)diboron (394 mg, 1.553 mmol), XPhos (24.68 mg, 0.052 mmol), and potassium acetate (152 mg, 1.553 mmol). The vial was evacuated and backfilled with N2 (×2), then dioxane (1035 μl) was added and the reaction heated to 100° C. overnight. The reaction mixture was diluted with water and EtOAc. The aqueous phase was extracted with EtOAc (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 25 g column by eluting with 40% to 100% EtOAc:Hexane to provide the desired product. LC-MS: calculated for C18H28BNO5S 381.18 observed m/e: 381.97 (M+H)+ (Rt 1.11/2 min).

reactant | 4-(4-chlorophenyl)-1-(methylsulfonyl)-piperidin-3-ol | 0.518 mmol, 150 mg | ClC1=CC=C(C=C1)C1C(CN(CC1)S(=O)(=O)C)O | C12H16ClNO3S
reactant | bis(pina-colato)diboron | 1.553 mmol, 394 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | XPhos | 0.052 mmol, 24.68 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium acetate | 1.553 mmol, 152 mg | C(C)(=O)[O-].[K+]
catalyst | Pd2(dba)3 | 0.026 mmol, 23.70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(methylsulfonyl)-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidin-3-ol | CS(=O)(=O)N1CC(C(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)O | C18H28BNO5S
